US07763731B2
2-(4-Methyl-2-nitro-phenylsulfanyl)-phenylamine
The title compound was prepared from 1-Chloro-4-methyl-2-nitro-benzene (3.00 g, 17.5 mmol), 2-Amino-benzenethiol (2.41 g, 19.23 mmol), and K2CO3 (4.22 g, 30.6 mmol) heated in DMF at 100° C. for 16 hrs. Reaction mixture was then cooled to room temperature and diluted with water and extracted with ethyl acetate. (0.990 g, 21%)

reactant | 1-Chloro-4-methyl-2-nitro-benzene | 17.5 mmol, 3.00 g | ClC1=C(C=C(C=C1)C)[N+](=O)[O-] | C7H6ClNO2
reactant | 2-Amino-benzenethiol | 19.23 mmol, 2.41 g | NC1=C(C=CC=C1)S | C6H7NS
reactant | K2CO3 | 30.6 mmol, 4.22 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-(4-Methyl-2-nitro-phenylsulfanyl)-phenylamine | CC1=CC(=C(C=C1)SC1=C(C=CC=C1)N)[N+](=O)[O-] | C13H12N2O2S
